US05232917
2α,3α-Epoxy-5α-pregnan-20-one
5α-pregnan-2-ene-20-one (3.05 g) in 50 mL of chloroform was treated with m-chloroperbenzoic acid (50-60%, 4.0 g). The solution was stirred at room temperature overnight (14 h) under an argon atmosphere. The solution was diluted with more chloroform (250 mL), washed with dilute potassium bicarbonate solution (2×150 mL), with water (2×100 mL), and finally with brine, and dried over magnesium sulfate and evaporated to an oil which crystallized on standing. Flash chromatography on a silica gel bed (200 g) and eluting with hexane/ethyl acetate (90:10) recovered in fraction 67-110 (collecting 20 mL volumes) 1.194 g of the titled compound.

reactant | 5α-pregnan-2-ene-20-one | 3.05 g | CC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4CC=CC[C@]4(C)[C@H]3CC[C@]12C)=O | C21H32O
reactant | m-chloroperbenzoic acid | 4.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 250 mL | C(Cl)(Cl)Cl | CHCl3
product | 2α,3α-Epoxy-5α-pregnan-20-one | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]1(C2)C)C | C21H32O2
